US20010047031A1
(RS)-4-(Pyrrolidin-3-ylsulfanyl)-phenol hydrobromide (470 mg, 1.7 mmol), Et3N (0.35 ml, 2.5 mmol) and 1-phenyl-3-buten-2-one (0.25 g, 1.7 mmol) were suspended in CH2Cl2 (10 ml). After stirring overnight at room temperature, the reaction mixture was concentrated and chromatographed over silica gel (hexane-ethylacetate 1:1 then ethylacetate) to provide (RS)-4-[3-(4-hydroxy-phenylsulfanyl)-pyrrolidin-1-yl]-1-phenyl-butan-2-one (90 mg, 16%) as a brown oil, MS: m/e=342.2 (M+H+).

reactant | (RS)-4-(Pyrrolidin-3-ylsulfanyl)-phenol hydrobromide | 1.7 mmol, 470 mg | Br.N1CC(CC1)SC1=CC=C(C=C1)O
reactant | Et3N | 2.5 mmol, 0.35 ml | CCN(CC)CC | C6H15N
reactant | 1-phenyl-3-buten-2-one | 1.7 mmol, 0.25 g | C1(=CC=CC=C1)CC(C=C)=O | C10H10O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (RS)-4-[3-(4-hydroxy-phenylsulfanyl)-pyrrolidin-1-yl]-1-phenyl-butan-2-one | 90 mg, 16% | OC1=CC=C(C=C1)SC1CN(CC1)CCC(CC1=CC=CC=C1)=O | C20H23NO2S
